US06090843
[6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(Tetrahydropyran-2-yl)methoxyphenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(tetrahydropyran-2-yl)methoxyphenyl]methanone (0.32 g, 0.66 mmol) was converted to the title compound by the procedure of Example 3 using 0.24 mL (3.31 mmol) of ethanethiol and 530 mg (3.97 mmol) of aluminum chloride.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(tetrahydropyran-2-yl)methoxyphenyl]methanone | 0.66 mmol, 0.32 g | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC2OCCCC2)C2=CC=C(C=C2)OC)C1 | C29H28O5S
reactant | ethanethiol | 3.31 mmol, 0.24 mL | C(C)S | C2H6S
reactant | aluminum chloride | 3.97 mmol, 530 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | [6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(Tetrahydropyran-2-yl)methoxyphenyl]methanone | Yield: 62% | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC2OCCCC2)C2=CC=C(C=C2)O)C1 | C27H24O5S
